US05344843
Bromoacetyl chloride (0.125 mL) was added slowly to a chilled (5 ° C.) solution of 1-[2-[2-(trifluoromethyl)phenyl]ethyl]piperazine (0.774 g) in dichloromethane (20 mL) and the mixture was stirred in an ice bath for 45 minutes, then at room temperature for 18 hours. After the addition of water (20 mL), the organic layer was separated and washed in turn with 0.5N hydrochloric acid and sodium bicarbonate solution. The dried (MgSO4) extract was evaporated to give 0.5 g of 1-(2-bromo-1-oxoethyl)-4-[2-[2-(trifluoromethyl)phenyl]ethyl]piperazine.

reactant | Bromoacetyl chloride | 0.125 mL | BrCC(=O)Cl | C2H2BrClO
reactant | 1-[2-[2-(trifluoromethyl)phenyl]ethyl]piperazine | 0.774 g | FC(C1=C(C=CC=C1)CCN1CCNCC1)(F)F | C13H17F3N2
reactant | water | 20 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(2-bromo-1-oxoethyl)-4-[2-[2-(trifluoromethyl)phenyl]ethyl]piperazine | 0.5 g | BrCC(=O)N1CCN(CC1)CCC1=C(C=CC=C1)C(F)(F)F | C15H18BrF3N2O
